Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Somnolence
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ man with chronic back pain, presenting after sudden onset 
lightheadedness, somnolence, and generalized weakness. He was in 
his USOH until ___ when he was driving in his car, and acutely 
felt above sx. He also endorses feeling that his vision became 
progressively darker at that moment, his mouth felt dry, and had 
mild tremors starting from the legs up to his arms. He denies 
headache or chest pain. At that point, his wife asked him to 
pull over, and EMS was called.
His PMH is significant for presyncope once after suddenly 
arising from his couch, when acute flare of chronic back pain 
caused him to become short of breath and lightheaded, which 
resolved with rest. He has had back pain for ___, unknown 
cause, denies any trauma, and takes occasional Tylenol, but no 
other pain medications. However, pt endorses that his current 
event was different in that he did not experience any back pain 
or shortness of breath.
Of note, his social history is significant for immigrating from 
___ ___ ago, where he worked in pig farms. Currently, he 
works as a ___ for the past ___, but denies any 
changes in ___ supplies or occupational hazards.
 
Past Medical History:
Chronic back pain
 
Social History:
___
Family History:
Mother had high blood pressure.
 
Physical Exam:
ADMISSION EXAM
Vitals: T 97.6 BP 98/61 HR 65 RR 16 O2 98% RA
GEN: AOx3, NAD
HEENT: MMM, oropharynx clear.
Neck: Supple. JVP not elevated. No carotid bruit.
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.
Lungs: Bilaterally clear to auscultation, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no cyanosis or edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, normal finger-to-nose.

===============
DISCHARGE EXAM
Vitals: T 98.3, BP 129/80, HR 67, RR 18, O2 97% Ra
GEN: AOx3, NAD
HEENT: MMM, oropharynx clear.
Neck: Supple. JVP not elevated. No carotid bruit.
CV: RRR. Normal S1+S2, no murmurs, rubs, gallops.
Lungs: Bilaterally clear to auscultation, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no cyanosis or edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, normal finger-to-nose.
 
Pertinent Results:
ADMISSION LABS:
================
___ 02:50PM BLOOD WBC-10.6* RBC-4.42* Hgb-14.4 Hct-41.4 
MCV-94 MCH-32.6* MCHC-34.8 RDW-12.2 RDWSD-42.5 Plt ___
___ 02:50PM BLOOD Neuts-54.7 ___ Monos-6.1 Eos-0.3* 
Baso-0.3 Im ___ AbsNeut-5.78 AbsLymp-4.04* AbsMono-0.64 
AbsEos-0.03* AbsBaso-0.03
___ 03:37PM BLOOD Glucose-166* UreaN-18 Creat-0.9 Na-141 
K-3.6 Cl-105 HCO3-23 AnGap-17
___ 03:37PM BLOOD ALT-24 AST-20 AlkPhos-58 TotBili-0.4
___ 03:37PM BLOOD Albumin-3.9 Calcium-8.5 Phos-2.4* Mg-1.8
___ 02:50PM BLOOD D-Dimer-283
___ 03:19PM BLOOD Type-ART pO2-63* pCO2-43 pH-7.39 
calTCO2-27 Base XS-0
___ 02:54PM BLOOD Lactate-2.7*
___ 03:19PM BLOOD O2 Sat-89
___ 03:37PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS:
================
___ 08:00AM BLOOD WBC-8.0 RBC-4.20* Hgb-13.5* Hct-40.5 
MCV-96 MCH-32.1* MCHC-33.3 RDW-12.9 RDWSD-45.3 Plt ___
___ 08:00AM BLOOD Glucose-105* UreaN-15 Creat-0.9 Na-141 
K-4.0 Cl-105 HCO3-25 AnGap-15
___ 08:00AM BLOOD Calcium-8.9 Phos-2.3* Mg-2.3
___ 08:00AM BLOOD %HbA1c-5.3 eAG-105
___ 08:00AM BLOOD TSH-0.67

IMAGING:
=========

CT HEAD (___):
1. No acute intracranial abnormality. 
2. Bilateral parenchymal calcifications without surrounding 
edema.  These 
could be sequela of prior infection such as neurocysticercosis.  

Alternatively, numerous cavernomas can have this appearance 
3. Paranasal sinus disease. 

CXR (___):
No acute cardiopulmonary process.
 
Brief Hospital Course:
This is a ___ year old male with no past medical history who 
presented with episode of confusion and global weakness, without 
focal neurologic or cardiac findings, status post 
volume resuscitation, felt to have been dehydrated now feeling 
at baseline, notably found to have abnormal head CT finding

# Acute metabolic encephalopathy
# Dehydration and presumed orthostatic hypotension
Patient presented with sudden onset lightheadedness and 
somnolence while driving, in the setting of a day of nausea and 
poor PO intake.  In the ED, exam initially notable for sinus 
tachycardia to HR 131 and somnolence.  He had an episode of 
emesis at that time as well.  Workup notable for mild 
leukocytosis, negative cardiac enzymes, negative D-dimer (sent 
due to an S1Q3T3 finding on his EKG, that was subsequently 
suspected to be normal variant), and  negative tox screen. 
Workup for infection with chest xray was reassuring.  CT-head 
showed no acute abnormalities, but did reveal bilateral 
parenchymal calcifications without surrounding edema concerning 
for cavernomas or prior neurocysticercosis. He received 1L NS 
and Zofran x1 with complete resolution of symptoms at time of 
admission.  His neurologic exam was unremarkable and clinical 
picture, corroborating history from family did not include any 
urinary incontinence, tongue biting, or rhythmic limb motions, 
and clinical picture on admission was not felt to be consistent 
with postictal state.  He was monitored for 1 day without 
abnormality on telemetry.  Leukocytosis resolved on repeat labs. 
He ambulated without symptoms or signs of orthostatic 
hypotension.   Given history of poor PO intake and emesis it was 
felt he likely had presented with metabolic encephalopathy 
secondary to dehydration from a viral gastroenteritis.  

# Abnormal CT head finding - CT head performed for above reasons 
incidentally showed 
"Bilateral parenchymal calcifications without surrounding edema. 
These could be sequela of prior infection such as 
neurocysticercosis.  Alternatively, numerous cavernomas can have 
this appearance".  His social history was notable for working in 
pig farms ___ ago, raising concern for prior 
neurocysticercosis.  Given he was felt to be asymptomatic from 
these findings, arranged for close outpatient ID follow-up.  
Sent cysticercus antibody, as well as quantiferon-gold, HIV, 
toxoplasma antibody, to be followed-up and communicated if 
positive.  

Transitional Issues 
- Patient discharged home
- Head CT incidentally showed "Bilateral parenchymal 
calcifications without surrounding edema. These could be sequela 
of prior infection such as neurocysticercosis.  
Alternatively, numerous cavernomas can have this appearance". 
Given history of prior pig exposure, there was clinical concern 
for prior neurocysticercosis infection.  Given absence of active 
symptoms, arranged for outpatient ID follow-up (patient will be 
called with appointment by ID). Cysticercosis antibody pending 
at discharge, will be followed up and communicated if positive
- Given episode of presyncope while driving, advised patient NOT 
drive for the next 2 weeks and he verbalized understanding; 
recommended discussion with PCP regarding clearance for driving; 

 
Medications on Admission:
None.
 
Discharge Medications:
None.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Presyncope
Acute metabolic encephalopathy
Orthostatic hypotension secondary to dehydration
Presumed viral gastroenteritis 
Abnormal Head CT 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after feeling lightheaded and 
generally weak with mild tremors while driving. In the emergency 
department, you were noted to be somnolent and difficult to 
arouse, which returned to normal on its own. You also had some 
vomiting. 

Vital signs and laboratory testing determined that you did not 
have a heart attack, blood clot, active infection, or 
toxin-related problem. Chest x-ray did not reveal any problems 
with your lungs. EKG did not show any signs of heart disease. 

CT-scan of the brain showed some calcifications without 
swelling, which raised the possibility of "neurocysticercosis", 
a type of parasite infection which is possible in the setting of 
your distant history of working with pigs. However, we do not 
believe you had any seizures and, as such, this is appropriate 
for outpatient work up.

You received some IV fluids and anti-nausea medications, and 
your symptoms resolved completely, suggesting that your symptoms 
were most likely due to dehydration.

*** DO NOT DRIVE FOR AT LEAST 2 WEEKS FROM DATE OF DISCHARGE. IF 
NO RECURRENT SYMPTOMS DURING THIS TIME, YOU CAN THEN REQUEST 
CLEARANCE FROM YOUR PRIMARY CARE DOCTOR TO RETURN TO DRIVING ***

We wish you the best in the future.
- From your ___ Medicine team.

 
Followup Instructions:
___